US04734407
(a) 5-Hydroxymethyl-benzofuran (7a)
5.8 g (32.9 mmol) of methyl benzofuran-5-carboxylate are stirred analogously to Example 1 g in 50 ml of tetrahydrofuran with 64.5 ml (98.6 mmol) of DIBAL (1.53 molar) at -70° C. overnight.

reactant | methyl benzofuran-5-carboxylate | 32.9 mmol, 5.8 g | O1C=CC2=C1C=CC(=C2)C(=O)OC | C10H8O3
reactant | DIBAL | 98.6 mmol, 1.53 molar, 64.5 ml | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Hydroxymethyl-benzofuran | OCC=1C=CC2=C(C=CO2)C1 | C9H8O2
